US08168793B2
3-(4-(3,4-Dimethoxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoro-methyl)pyridine-1-oxide (482 mg, 1 mmol) was taken up in dichloromethane (8 mL). The yellowish suspension was cooled to −78° C. under argon and boron tribromide (0.85 mL, 9 mmol) was added dropwise. The reddish reaction mixture was allowed to warm to room temperature and stirred for 18 hours and then carefully poured into ice-water (100 mL) and stirred for 1 hour. The yellow precipitate was filtered off, washed with water and dried over P2O5 under vacuum. Recrystallisation of the solid from ethanol gave 3-(4-(3,4-Dihydroxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoromethyl)pyridine 1-oxide as a yellow solid, 0.31 g (68%).

reactant | 3-(4-(3,4-Dimethoxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoro-methyl)pyridine-1-oxide | 1 mmol, 482 mg | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C=1C(=C(OC1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F)C(=O)OCC | C21H17F3N2O8
reactant | boron tribromide | 9 mmol, 0.85 mL | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 3-(4-(3,4-Dihydroxy-5-nitrophenyl)-3-(ethoxycarbonyl)furan-2-yl)-2-(trifluoromethyl)pyridine 1-oxide | OC=1C=C(C=C(C1O)[N+](=O)[O-])C=1C(=C(OC1)C=1C(=[N+](C=CC1)[O-])C(F)(F)F)C(=O)OCC | C19H13F3N2O8
